US04471138
In the manner described in Example 8, 129.7 g of tertiaryamylamine and 92.2 g of 2-chloroethoxyethanol yielded 86.5 g of tertiaryamylaminoethoxyethanol having a b.p. of 124° C. (10 mm).

reactant | tertiaryamylamine | 129.7 g | C(C)(C)(CC)N | C5H13N
reactant | 2-chloroethoxyethanol | 92.2 g | ClCCOC(C)O | C4H9ClO2
product | tertiaryamylaminoethoxyethanol | 86.5 g | C(C)(C)(CC)NCCOC(C)O | C9H21NO2
